US09233920B2
To a solution of 4-[(E)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester (1 g) and (benzhydrylidene-amino)-acetic acid tert-butyl ester (643 mg) in acetonitrile (5 mL) was added a solution of sodium hydroxide (0.6 mL, 32%) at room temperature. The reaction was stirred at ambient temperature for 18 hours, then water was added and the reaction mixture was extracted with dichloromethane and the combined organic fractions were dried over sodium sulfate. The crude product was purified by flash chromatography (0% to 05% ethyl acetate in cyclohexane) to afford 4-[3-[(Benzhydrylidene-amino)-tert-butoxycarbonyl-methyl]-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester (1.12 g) as a yellow foam. 19F NMR (376 MHz, CDCl3) δ −60.99 and −61.88 ppm (mixture of 2 diastereoisomers).

reactant | 4-[(E)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester | 1 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(\C=C(\C(F)(F)F)/C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C22H19Cl2F3O3
reactant | (benzhydrylidene-amino)-acetic acid tert-butyl ester | 643 mg | C(C)(C)(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H21NO2
reactant | sodium hydroxide | 0.6 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 4-[3-[(Benzhydrylidene-amino)-tert-butoxycarbonyl-methyl]-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester | 1.12 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(CC(C(F)(F)F)(C1=CC(=CC(=C1)Cl)Cl)C(C(=O)OC(C)(C)C)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C)=O | C41H40Cl2F3NO5
